US07482448B2
A suspension of Polystyrene bound carbodiimide (570 mg, 0.73 mmol) and 4,4-Difluoro-2-[([1,4]oxazepane-4-carbonyl)-amino]-heptanoic acid (135 mg) in DCM (10 mL) stirred for 10 min. HOBT (60 mg) added, stirred for 10 min. A suspension of amino acetonitrile hydrochloride (34 mg) and triethyl amine (52 μL) in DCM (5 mL) added and stirred overnight at room temperature. PS-Trisamine (493 mg) added and stirred at room temperature for 2 h 30 min. After filtration, filtrate diluted with DCM, washed with water, evaporated under reduced pressure and purified by column chromatography eluting with ethyl acetate heptane mixture to give Perhydro-1,4-oxazepine-4-carboxylic acid [(S)-1-(cyanomethyl-carbamoyl)-3,3-difluoro-hexyl]-amide as a solid.

reactant | carbodiimide | 0.73 mmol, 570 mg | N=C=N | CH2N2
reactant | 4,4-Difluoro-2-[([1,4]oxazepane-4-carbonyl)-amino]-heptanoic acid | 135 mg | FC(CC(C(=O)O)NC(=O)N1CCOCCC1)(CCC)F | C13H22F2N2O4
reactant | HOBT | 60 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | amino acetonitrile hydrochloride | 34 mg | Cl.NCC#N
reactant | Trisamine | 493 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | triethyl amine | 52 μL | C(C)N(CC)CC | C6H15N
product | Perhydro-1,4-oxazepine-4-carboxylic acid [(S)-1-(cyanomethyl-carbamoyl)-3,3-difluoro-hexyl]-amide | C(#N)CNC(=O)[C@H](CC(CCC)(F)F)NC(=O)N1CCOCCC1 | C15H24F2N4O3
